US09387200B2
b) [(4-Hydroxy-3-methyl-7-pyridin-3-yl-isothiazolo[5,4-c]pyridine-5-carbonyl)-amino]-acetic acid
The title compound was synthesized in analogy Example 1 from 4-hydroxy-3-methyl-7-pyridin-3-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester and glycine: MS (m/z) 345.1 (M+1).

reactant | 4-hydroxy-3-methyl-7-pyridin-3-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)C=1C=NC=CC1)SN=C2C)O | C17H17N3O3S
reactant | glycine | NCC(=O)O | C2H5NO2
product | [(4-Hydroxy-3-methyl-7-pyridin-3-yl-isothiazolo[5,4-c]pyridine-5-carbonyl)-amino]-acetic acid | OC1=C2C(=C(N=C1C(=O)NCC(=O)O)C=1C=NC=CC1)SN=C2C | C15H12N4O4S
